* C:\Users\noobe\Documents\AnalogCiruitsProjects\Draft1.asc
M1 N001 N002 0 0 NMOSPLEASE
M2 0 0 0 0 PMOSn
V1 N002 0 2
R1 VDD N001 10k
V2 VDD 0 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\noobe\Documents\LTspiceXVII\lib\cmp\standard.mos
.op
.include NMOSPLEASE.MOD
.backanno
.end
