* C:\Users\noobe\Documents\AnalogCiruitsProjects\ProjectTestSchematic.asc
M1 N002 N003 0 0 CMOSN w=2u l=1u
M2 N004 N001 0 0 CMOSP w=2u l=1u
V1 N003 0 1.6
R1 VDD N002 1
V2 VDD 0 10
V3 N001 0 -2
V4 N004 0 -10
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\noobe\Documents\LTspiceXVII\lib\cmp\standard.mos
.include NMOSPLEASE.MOD
.include PMOS.MOD
.op
.backanno
.end
